US04710573
1-Cyclopropylmethyl-3-(1-methyl-4-piperidinyl)-1H-indazole hydrobromide
To a stirred mixture of 1.19 g of sodium hydride (50% oil dispersion) in 65 ml of dimethylformamide was added, dropwise, 4.0 g of 3-(1-methyl-4-piperidinyl)-1H-indazole in 20 ml of hot dimethylformamide. The mixture was stirred for 1 hr at ambient temperature and then 1.40 g of chloromethylcyclopropane in 10 ml of dimethylformamide was added dropwise. The reaction mixture was stirred for 21/2 days at ambient temperature. The reaction mixture was quenched with water, extracted with ethyl acetate, washed with water, dried over anhydrous magnesium sulfate and the solvent was removed in vacuo to yield an oil. The oil was dissolved in ether and saturated hydrogen bromide/ether solution. was added dropwise to precipitate a salt. The salt was recrystallized from toluene and ethyl acetate to yield 2.8 g (32%) of product, mp 177°-179° C.

reactant | sodium hydride | 1.19 g | [H-].[Na+]
reactant | 3-(1-methyl-4-piperidinyl)-1H-indazole | 4.0 g | CN1CCC(CC1)C1=NNC2=CC=CC=C12 | C13H17N3
reactant | chloromethylcyclopropane | 1.40 g | ClCC1CC1 | C4H7Cl
reactant | hydrogen bromide ether | Br.CCOCC
solvent | dimethylformamide | 65 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 1-Cyclopropylmethyl-3-(1-methyl-4-piperidinyl)-1H-indazole hydrobromide | 2.8 g, 32% | Br.C1(CC1)CN1N=C(C2=CC=CC=C12)C1CCN(CC1)C | InChI=1S/C17H23N3.BrH/c1-19-10-8-14(9-11-19)17-15-4-2-3-5-16(15)20(18-17)12-13-6-7-13;/h2-5,13-14H,6-12H2,1H3;1H
